US04251539
3-Isopropyl-5-[2-(2-hydroxy-3-tert.-butylaminopropoxy)-styryl]-isoxazole
7 g (0.025 mole) of 3-isopropyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole and 3.6 g (0.05 mole) of tert.-butylamine are reacted by the method described in Example 4. 5.8 g (59% of theory) of colorless crystals are obtained. Melting point 191°-193° C.

reactant | 3-isopropyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole | 0.025 mole, 7 g | C(C)(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)OCC1CO1 | C17H19NO3
reactant | tert.-butylamine | 0.05 mole, 3.6 g | C(C)(C)(C)N | C4H11N
product | 3-Isopropyl-5-[2-(2-hydroxy-3-tert.-butylaminopropoxy)-styryl]-isoxazole | C(C)(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)OCC(CNC(C)(C)C)O | C21H30N2O3
